US04855301
A mixture of 2-[(2,1,3-benzoxadiazol-4-yl)methylene]-3-oxobutanoic acid, 1-methylethyl ester (2.04 g, 7.43 mmol), sodium bicarbonate (1.87 g, 22.3 mmol) and O-methylisourea hydrogen sulfate (1.66 g, 9.66 mmol) in dimethylformamide (7.5 ml) was heated at 65° C. (oil bath) overnight under argon. The reaction was then diluted with ethyl acetate, washed several times with water, washed with saturated sodium chloride, dried (potassium carbonate), and evaporated. The residue was flash chromatographed over Merck silica gel (400 ml) eluting with 10% ethyl acetate/dichloromethane to give 4-(2,1,3-benzoxadiazol-4-yl)-1,4-dihydro-2-methoxy-6-methyl-5-pyrimidinecarboxylic acid, 1-methylethyl ester as a dark solid (0.60 g, 25%). TLC (10% ethyl acetate/dichloromethane) single spot, Rf =0.17.

reactant | 2-[(2,1,3-benzoxadiazol-4-yl)methylene]-3-oxobutanoic acid, 1-methylethyl ester | 7.43 mmol, 2.04 g | N=1ON=C2C1C=CC=C2C=C(C(=O)OC(C)C)C(C)=O | C14H14N2O4
reactant | sodium bicarbonate | 22.3 mmol, 1.87 g | C([O-])(O)=O.[Na+]
reactant | O-methylisourea hydrogen sulfate | 9.66 mmol, 1.66 g | S(=O)(=O)(O)O.COC(N)=N
solvent | dimethylformamide | 7.5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2,1,3-benzoxadiazol-4-yl)-1,4-dihydro-2-methoxy-6-methyl-5-pyrimidinecarboxylic acid, 1-methylethyl ester | 0.60 g, 25% | N=1ON=C2C1C=CC=C2C2N=C(NC(=C2C(=O)OC(C)C)C)OC | C16H18N4O4
